US06011028
Example 290 A) A sample of 1-Pyrrolidino-1-cyclohexene (7.1 mL, 44 mmol) and 2-vinylpyridine (4.3 mL, 40 mmol) were refluxed overnight in diglyme (100 mL). Water was then added and the mixture was stirred an additional 2 hours before extracting it with Et2O. The ether layer was dried over MgSO4 and concentrated in vacuo leaving an oil. The residue oil was distilled on a kugelrohr apparatus at 60-80° C. (0.1 mm) to give 2-(2-pyridyl) ethyl-2-cyclohexanone as a yellow oil (6.5 g).

reactant | 1-Pyrrolidino-1-cyclohexene | 44 mmol, 7.1 mL | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | 2-vinylpyridine | 40 mmol, 4.3 mL | C(=C)C1=NC=CC=C1 | C7H7N
reactant | Water | O | H2O
solvent | diglyme | 100 mL | COCCOCCOC | C6H14O3
product | 2-(2-pyridyl) ethyl-2-cyclohexanone | 6.5 g | N1=C(C=CC=C1)CCC1C(CCCC1)=O | C13H17NO
